US07572809B2
Similar procedure as described in example 131 was used, starting (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and naphthalene-2-boronic acid to give (5-methyl-1H-pyrazol-3-yl)-(1-naphthalen-2-yl-6-methoxy-isoquinolin-3-yl)-amine. LC-MS m/e 381(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | naphthalene-2-boronic acid | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | (5-methyl-1H-pyrazol-3-yl)-(1-naphthalen-2-yl-6-methoxy-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)OC)C1=CC2=CC=CC=C2C=C1 | C24H20N4O
